US06610723B2
1-[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-yl-methyl]-4,5,6,7-tetrahydro-1H-benzoimidazole-, Hydrochloride (1:2)
Reaction of 4,5,6,7-tetrahydrobenzimidazole with sodium hydride followed by treatment with 4-chloromethyl-1-(3,4-dichloro-phenyl)-1H-imidazole led after extractive workup and chromatography to the free base of the title compound which was converted into its white hydrochloride salt. Mp.>250° C. (MeOH/Et2O), MS: m/e=346 (M+).

reactant | 4,5,6,7-tetrahydrobenzimidazole | N1=CNC2=C1CCCC2 | C7H10N2
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloromethyl-1-(3,4-dichloro-phenyl)-1H-imidazole | ClCC=1N=CN(C1)C1=CC(=C(C=C1)Cl)Cl | C10H7Cl3N2
product | 1-[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-yl-methyl]-4,5,6,7-tetrahydro-1H-benzoimidazole-, Hydrochloride | Cl.ClC=1C=C(C=CC1Cl)N1C=NC(=C1)CN1C=NC2=C1CCCC2 | InChI=1S/C17H16Cl2N4.ClH/c18-14-6-5-13(7-15(14)19)22-8-12(20-10-22)9-23-11-21-16-3-1-2-4-17(16)23;/h5-8,10-11H,1-4,9H2;1H
